US08735005B2
Synthesis of (2-Oxo-1,3-dioxolan-4-yl)methyl 2,2-difluoroacetate (FS-B)
To a solution containing 8.50 g (71.8 mmol) of glycerol 1,2-carbonate (Aldrich, Milwaukee, Wis.) in 30.0 mL of anhydrous dichloromethane, was added 25.0 g (143 mmol) of difluoroacetic anhydride (SynQuest Laboratories, Inc., Alachua, Fla.) at 0-5° C. The resulting mixture was stirred in a dry box for 3 hours. Then, volatile materials were removed by roto-evaporation. The remaining liquid was purified by vacuum distillation. Fractions were collected at 40 mtorr (5.3 Pa), 130-132° C. (4.33 g) and 40 mtorr (5.3 Pa), 138-140° C. (4.50 g). The later fraction was selected as having notably good purity. The yield of 2-oxo-1,3-dioxolan-4-yl)methyl 2,2-difluoroacetate, also referred to herein as FS-B, was 63%. The final product was analyzed by 1H NMR and 19F NMR as follows:

reactant | glycerol 1,2-carbonate | 71.8 mmol, 8.50 g | C1C(OC(=O)O1)CO | C4H6O4
reactant | difluoroacetic anhydride | 143 mmol, 25.0 g | FC(C(=O)OC(C(F)F)=O)F | C4H2F4O3
solvent | dichloromethane | 30.0 mL | ClCCl | CH2Cl2
product | (2-Oxo-1,3-dioxolan-4-yl)methyl 2,2-difluoroacetate | FC(C(=O)OCC1OC(OC1)=O)F | C6H6F2O5
